US07365085B2
a) (2-chloro-3-trifluoromethyl-benzyl)-((S)-2-phenyl-propyl)-amine
To a solution of (S)-(−)-2-phenyl propylamine (0.5 g, 3.7 mmol) in dry dichloromethane (100 ml) was added acetic acid (2 drops) followed by 2-chloro-3-trifluoromethylbenzaldehyde (1.1 g, 5.5 mmol) and sodium triacetoxyborohydride (1.5 g, 7.4 mmol). After the resulting mixture was stirred for 1.5 h at room temperature, water was added to quench the reaction. The aqueous layer was extracted with ethyl acetate. The combined organic layers was washed with brine, dried over sodium sulfate and concentrated in vacuo. The crude mixture was purified by silica gel column chromatograph using EtOAc:Hexane/25:75 as the eluant to give 0.55 g (45% yield) of the title compound as an oil. MS m/e327.6 (M+H)+.

reactant | (S)-(−)-2-phenyl propylamine | 3.7 mmol, 0.5 g | C1(=CC=CC=C1)[C@@H](CN)C | C9H13N
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | 5.5 mmol, 1.1 g | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | sodium triacetoxyborohydride | 7.4 mmol, 1.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | Hexane | CCCCCC | C6H14
product | (2-chloro-3-trifluoromethyl-benzyl)-((S)-2-phenyl-propyl)-amine | 0.55 g, 45% yield | ClC1=C(CNC[C@@H](C)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C17H17ClF3N
